US09029361B2
Part B. Preparation of tert-butyl (2S,4R)-4-(benzyloxy)-2-formylpyrrolidine-1-carboxylate
To a stirred solution of oxalyl chloride (2.21 mL, 25.4 mmol) in dichloromethane (120 mL) at −78° C. was added dimethyl sulfoxide (3.6 mL, 50.8 mmol) dropwise via syringe. The mixture was stirred at −78° C. for 10 minutes, and a solution of tert-butyl (2S,4R)-4-(benzyloxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate (3.9 g, 12.69 mmol, Part A) in dichloromethane (30 mL) was added. The mixture was stirred at −78° C. for 15 minutes, and triethylamine (7.07 mL, 50.8 mol) was added. After 15 minutes, the reaction mixture was allowed to warm to 0° C. and stirred at that temperature for 30 minutes. The mixture was washed successively with water and brine, dried with MgSO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography on silica gel using a solvent gradient of 20-50% ethyl acetate in hexanes to give the title compound as a colorless oil (3.25 g, 84%). 1H NMR (400 MHz, pyridine-d5, 90° C.) δ ppm 9.62 (s, 1 H), 7.18-7.41 (m, 5 H), 4.37-4.56 (m, 3 H), 4.08-4.14 (m, 1 H), 3.88-3.74 (m, 1 H), 3.56 (dd, J=11.7, 4.7 Hz, 1 H) 2.19-2.29 (m, 1 H) 1.95-2.05 (m, 1 H) 1.45 (s, 9 H).

reactant | oxalyl chloride | 25.4 mmol, 2.21 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 50.8 mmol, 3.6 mL | CS(=O)C | C2H6OS
reactant | tert-butyl (2S,4R)-4-(benzyloxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C17H25NO4
reactant | triethylamine | 50.8 mol, 7.07 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | tert-butyl (2S,4R)-4-(benzyloxy)-2-formylpyrrolidine-1-carboxylate | 3.25 g, 84% | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C=O | C17H23NO4
